US07807673B2
To the solution of 3-[3-(2-chloro-4-pyrimidinyl)-4-fluoropyrazolo[1,5-a]pyridin-2-yl]aniline (0.28 g) in THF (15 mL) was added 2-thienylacetyl chloride (0.16 g). The reaction was kept stirring at RT for 0.5 h and worked up with sat. NaHCO3 solution (8 mL). After extraction with EtOAc (2×10 mL), drying with Na2SO4, and concentration, the crude mixture was purified through silica gel column chromatography to afford N-{3-[3-(2-chloro-4-pyrimidinyl)-4-fluoropyrazolo[1,5-a]pyridin-2-yl]phenyl}-2-(2-thienyl)acetamide as a yellow solid (0.36 g, 95%). ES-LC/MS m/z=464 [M+H]+.

reactant | 3-[3-(2-chloro-4-pyrimidinyl)-4-fluoropyrazolo[1,5-a]pyridin-2-yl]aniline | 0.28 g | ClC1=NC=CC(=N1)C=1C(=NN2C1C(=CC=C2)F)C=2C=C(N)C=CC2 | C17H11ClFN5
reactant | 2-thienylacetyl chloride | 0.16 g | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
reactant | NaHCO3 | 8 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | N-{3-[3-(2-chloro-4-pyrimidinyl)-4-fluoropyrazolo[1,5-a]pyridin-2-yl]phenyl}-2-(2-thienyl)acetamide | 0.36 g, 95% | ClC1=NC=CC(=N1)C=1C(=NN2C1C(=CC=C2)F)C=2C=C(C=CC2)NC(CC=2SC=CC2)=O | C23H15ClFN5OS
